US07119201B2
Part A: 1-(4-Chloro-phenyl)-3-[4-(4-methoxy-phenoxy)-phenyl]-1H-pyrazole
By the same procedure as Example 67 Part C, 3-[4-(4-methoxy-phenoxy)-phenyl]-1H-pyrazole and 4-chlorophenylboronic acid were converted to the title compound. MS m/z: ESI+ 377.1 (M+H)+.

reactant | 3-[4-(4-methoxy-phenoxy)-phenyl]-1H-pyrazole | COC1=CC=C(OC2=CC=C(C=C2)C2=NNC=C2)C=C1 | C16H14N2O2
reactant | 4-chlorophenylboronic acid | ClC1=CC=C(C=C1)B(O)O | C6H6BClO2
product | 1-(4-Chloro-phenyl)-3-[4-(4-methoxy-phenoxy)-phenyl]-1H-pyrazole | ClC1=CC=C(C=C1)N1N=C(C=C1)C1=CC=C(C=C1)OC1=CC=C(C=C1)OC | C22H17ClN2O2
